US08258130B2
TFAA (5.15 g, 24.5 mmol) is added drop-wise to a stirred solution of 2-bromo-3-amino-6-methoxypyridine (4.15 g, 20.5 mmol) and pyridine (1.94 g, 24.5 mmol) in DCM (60 mL) at rt and stirred at rt for 2.5 h. Water (40 mL) is added. The organic layer is separated, dried (Na2SO4), filtered, and concentrated in vacuo to afford N-(2-bromo-6-methoxy-pyridin-3-yl)-2,2,2-trifluoro-acetamide (5.68 g) as a solid. 1H NMR (300 MHz, CDCl3): δ 3.96 (s, H), 6.80(s, H), 8.23 (br, N—H), 8.42(d, H).

reactant | TFAA | 24.5 mmol, 5.15 g | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | 2-bromo-3-amino-6-methoxypyridine | 20.5 mmol, 4.15 g | BrC1=NC(=CC=C1N)OC | C6H7BrN2O
reactant | pyridine | 24.5 mmol, 1.94 g | N1=CC=CC=C1 | C5H5N
reactant | Water | 40 mL | O | H2O
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | N-(2-bromo-6-methoxy-pyridin-3-yl)-2,2,2-trifluoro-acetamide | 5.68 g | BrC1=NC(=CC=C1NC(C(F)(F)F)=O)OC | C8H6BrF3N2O2
